US05298652
N-(3-Aminobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester
A mixture of 3.3 g of N-(3-nitrobenzoyl)-N-(2-ethoxy-2-oxoethyl) glycine ethyl ester and 0.5 g of 10% palladium on carbon in 40 ml THF and 40 ml ethyl acetate was stirred in a hydrogen atmosphere for 16 hours. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to an oil which was purified by HPLC using 50% ethyl acetate-hexane to remove an impurity and ethyl acetate to elute 3.1 g of N-(3-aminobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester as an oil. The nmr and mass spectra were consistent with the structure.

reactant | N-(3-nitrobenzoyl)-N-(2-ethoxy-2-oxoethyl) glycine ethyl ester | 3.3 g | C(C)OC(CN(CC(=O)OCC)C(C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C15H18N2O7
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-Aminobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester | C(C)OC(CN(CC(=O)OCC)C(C1=CC(=CC=C1)N)=O)=O | C15H20N2O5
